US05349068
a) 3-(tert-Butyldimethylsilyloxymethyl)-5-methylisoxazole
To a chilled (5° C.) solution of 3-hydroxymethyl-5-methylisoxazole (16.8 g, 148 mmol) and tert-butyldimethylsilyl chloride (24.6 g, 163 mmol) in dry methylene chloride (100 mL) was added over 15 minutes a solution of triethylamine (22.7 mL, 163 mmol) in methylene chloride (25 mL). 4-Dimethylaminopyridine (1.81 g, 14.8 mmol) was added and the thick reaction mixture was stirred at room temperature for 48 hours. Water (100 mL) was added and the aqueous layer extracted with methylene chloride (3×). The combined organic phases were washed with brine, dried (MgSO4), filtered through a pad composed of a layer of Florisil and a layer of Silica Gel 60, and concentrated in vacuo. The yellow oil obtained (36.6 g) was purified by chromatography (Silica Gel 60, 2% ethyl acetate in hexanes) to give 27.7 g (81.9%) of pure title compound as a pale yellow oil.

reactant | 3-hydroxymethyl-5-methylisoxazole | 148 mmol, 16.8 g | OCC1=NOC(=C1)C | C5H7NO2
reactant | tert-butyldimethylsilyl chloride | 163 mmol, 24.6 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 163 mmol, 22.7 mL | C(C)N(CC)CC | C6H15N
reactant | Water | 100 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-Dimethylaminopyridine | 14.8 mmol, 1.81 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 3-(tert-Butyldimethylsilyloxymethyl)-5-methylisoxazole | 27.7 g, 81.9% | [Si](C)(C)(C(C)(C)C)OCC1=NOC(=C1)C | C11H21NO2Si
